US07030262B2
benzyl (2E)-3-cyclopentylacrylate
A solution of cyclopentanecaboxaldehyde (0.069 g, 0.70 mmol), benzyl (diethylethyl phosphono)acetate (0.100 g, 0.35 mmol), lithium bromide (0.030 g, 0.35 mmol), and triethylamine (0.049 mL, 0.35 mmol) in THF (1 mL) at room temperature was stirred for 16 hours, quenched with water, stirred for 15 minutes, diluted with ethyl acetate, washed sequentially with pH 7 buffer and brine, dried (MgSO4), filtered, and concentrated to provide the desired product. MS (ESI) m/e 231 (M+H)+.

reactant | cyclopentanecaboxaldehyde | 0.70 mmol, 0.069 g | C1(CCCC1)C=O | C6H10O
reactant | benzyl (diethylethyl phosphono)acetate | 0.35 mmol, 0.100 g | C(C)C(C)(OP(=O)(O)CC(=O)OCC1=CC=CC=C1)CC | C15H23O5P
reactant | lithium bromide | 0.35 mmol, 0.030 g | [Br-].[Li+]
reactant | triethylamine | 0.35 mmol, 0.049 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | benzyl (2E)-3-cyclopentylacrylate | C1(CCCC1)/C=C/C(=O)OCC1=CC=CC=C1 | C15H18O2
